Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2][H:3],4.45153908652
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],8.008402792230001
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8]>>[C:4]([H:5])[O:6][C:7][H:8].[O:1]=[C:2][H:3],4.72991429044
[H:10].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10],-3.59820067819
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],5.24473419234
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],7.32779074673
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16],-4.34765641677
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1[O:10][C:11]1([H:12])[H:13],-1.73309855383
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],2.21015749598
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],4.66288994677
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],3.94534243852
[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[H:11].[O:1]=[C:2]=[C:9]([H:10])[C:12]([H:13])([H:14])[H:15],1.56331705274
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]1([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12],-3.14262679107
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],6.64441418455
[H:5].[O:1]=[C:2]([H:3])/[C:4]=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.05937866462
[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-0.0713151018294
[C:1][C:2]1=[C:3]([O:4][H:5])[O:6][C:7]1([H:8])[H:9]>>[C:1]#[C:2][C:7]([O:6][C:3][O:4][H:5])([H:8])[H:9],1.53279211324
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2],5.14071329948
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.60690251062
[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.59779750645
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.6335079635300005
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.94599038413
[C:3]([H:4])#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-6.88543790035
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:9][C:10]([H:11])[H:12].[H:8],4.04659618888
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9].[O:10][H:11]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-3.34828083296
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],1.06328819399
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.97893351105
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.826463614049
